US05422353
1-Ethyl-4-methoxymethyl-1,2,3,6-tetrahydropyridine
6.5 g (0.053 mol) of 4-methoxymethyl pyridine and 9.9 g of ethyl iodide are refluxed in 65 ml of acetonitrile for 1 hour. After the solvent has been distilled off the quaternary salt remaining is taken up in methanol and reduced with sodium borohydride analogously to Example 1 b). 7.8 g (95.2% of theory) of the title compound are obtained (b.p. 85° C./20 mbar).

reactant | 4-methoxymethyl pyridine | 0.053 mol, 6.5 g | COCC1=CC=NC=C1 | C7H9NO
reactant | ethyl iodide | 9.9 g | C(C)I | C2H5I
solvent | acetonitrile | 65 ml | C(C)#N | C2H3N
product | 1-Ethyl-4-methoxymethyl-1,2,3,6-tetrahydropyridine | C(C)N1CCC(=CC1)COC | C9H17NO
